US08309751B2
2-(2-Methoxyacetyl)decanonitrile
In a stirred vessel fitted with reflux condenser and dropping funnel, 199.96 g of solid potassium methoxide were initially charged, and 318 g of o-xylene were added. 15 g of ethanol were added, and the suspension was heated to reflux. A mixture of 170 g of decanonitrile and 180.8 g of ethyl methoxy acetate was then added via the dropping funnel over a period of 10 min. After the addition had ended, stirring was continued for 6 h, and the mixture was then cooled to 105° C. 373 g of water were then added, and the mixture was adjusted to pH 4 by addition of about 388 g of 20% strength hydrochloric acid. The temperature was set to 70° C., and the (lower) aqueous phase was removed. The organic phase was washed with another 186 g of water. After removal of the aqueous phase, the organic phase was concentrated to half of its original volume in order to remove the water. This gave 235.5 g of a pale yellow solution having a content of product of value of 62% a/a (GC), which can be reacted further as such. For purification, the compound was distilled under high vacuum, with the product passing over at 120 to 134° C./1 mbar.

reactant | potassium methoxide | C[O-].[K+]
reactant | o-xylene | 318 g | CC=1C=CC=CC1C | C8H10
reactant | decanonitrile | 170 g | C(CCCCCCCCC)#N | C10H19N
reactant | hydrochloric acid | Cl | ClH
reactant | water | 373 g | O | H2O
solvent | ethanol | 15 g | C(C)O | C2H6O
product | 2-(2-Methoxyacetyl)decanonitrile | COCC(=O)C(C#N)CCCCCCCC | C13H23NO2
